Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ man with h/o hypertriglyceridemia and a 
heart murmur as a child who presents with chest tightness.  
 Patient recently travelled to ___ for a college service 
trip ___, and on ___ developed subjective fevers, nausea, 
and diarrhea x ___ times overnight. On ___ he vomited. He then 
went to a local pharmacy and received 2 medications (cannot 
recall name of meds, but they were for his fever and diarrhea). 
He was taking those along with some Advil and by ___, his 
symptoms had resolved. He was able to participate in the 
activities scheduled for that day. On ___, he returned from 
___ and was unpacking when experienced left-sided chest 
tightness that lasted 2.5 hrs and was non-radiating. He reports 
feeling a "cold" sensation. He took 2 Advil for the pain. This 
morning, he had recurrence of the tightness with associated 
tingling/ numbness of L arm, again self-resolving. Given the 
radiation down his arm, he decided to come to the ED.  
 Neither episode associated with diaphoresis, shortness of 
breath, lightheadedness, palpitations. No ___ swelling. He denies 
any dyspnea on exertion, orthopnea, or PND. He reports eating 
the same food as the other people in the group and reports that 
no one else got sick.  
 In the ED, initial vitals were T97.4 HR 67 BP 120/59 RR 18 
100%RA.  
 - Exam notable for TTP in RUQ, but otherwise normal.  
 - EKG: initial: poor baseline, sinus brady (57), good R wave 
progression , ? slight ST elevation of V2. Repeat: NSR, ?small 
qwaves to II, III, flattening V3-6 compared to initial EKG  
 - Labs/studies notable for: Trop-T 0.13, Lipase 139. Also 
notable for Lactate 1.0, WBC wnl, CMP wnl. Blood cultures sent.  

 - RUQ US: Hepatic steatosis with focal fatty sparing.  
 - CXR: normal  
 - Bedside US showing slightly depressed EF, global HK 40-45%. 
RV no well seen but appearing to be functioning normally.  
 - Patient was given: ASA 324mg.  
 Vitals on transfer: 98.1 75 131/67 18 100% RA  
 On the floor patient reports feeling normal. He is accompanied 
by his "wife," a friend/girlfriend from school. He denies any 
chest pain or shortness of breath. He denies any new rashes or 
joint swelling/pain.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: HLD (parents report hyperlipidemia)  
 2. CARDIAC HISTORY: None  
 3. OTHER PAST MEDICAL HISTORY: None  

 
Social History:
___
Family History:
 No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. Both parents 
likely have hyperlipidemia. Has 1 older brother who is healthy. 
All 4 grandparents have diabetes.  
 
Physical Exam:
ADMISSION EXAM
==============
Vitals: 97.9 116/61 65 14 98% RA  
 wt: 84.5 kg  
 GENERAL - pleasant, well-appearing, in no apparent distress  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear without any lesions  
 NECK - supple, no LAD, no thyromegaly, JVP not elevated  
 CARDIAC - regular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops  
 PULMONARY - clear to auscultation bilaterally, without wheezes 
or rhonchi  
 ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly  
 EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred  
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  

DISCHARGE EXAM
==============
VS: ___ ___ 99-100%RA
 I/O: 8h -/ +; 24h 1700/1000+
 wt: 84.0 kg -> 83.8 
Tele: sinus arrhythmia with frequent PVCs overnight
 GENERAL - pleasant, well-appearing, in no apparent distress  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear without any lesions  
 NECK - supple,  JVP not elevated  
 CARDIAC - regular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops  
 PULMONARY - clear to auscultation bilaterally, without wheezes 
or rhonchi, crackles
 ABDOMEN - normal bowel sounds, soft, RUQ slightly TTP (similar 
to yesterday), non-distended, no organomegaly  
 EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. 
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant 
 
Pertinent Results:
ADMISSION LABS
===============
___ 01:20PM BLOOD WBC-4.3 RBC-5.00 Hgb-14.9 Hct-42.7 MCV-85 
MCH-29.8 MCHC-34.9 RDW-12.1 RDWSD-37.2 Plt ___
___ 01:20PM BLOOD Neuts-66.3 ___ Monos-11.4 
Eos-0.9* Baso-0.7 Im ___ AbsNeut-2.85 AbsLymp-0.84* 
AbsMono-0.49 AbsEos-0.04 AbsBaso-0.03
___ 01:20PM BLOOD ___ PTT-26.9 ___
___ 01:20PM BLOOD Glucose-111* UreaN-18 Creat-1.1 Na-138 
K-3.8 Cl-102 HCO3-26 AnGap-14
___ 01:20PM BLOOD ALT-26 AST-27 AlkPhos-54 TotBili-0.5
___ 01:20PM BLOOD Lipase-139*
___ 01:20PM BLOOD CK-MB-10 cTropnT-0.13*

INTERIM LABS
============
___ 04:16AM BLOOD WBC-5.9 RBC-4.83 Hgb-14.1 Hct-41.0 MCV-85 
MCH-29.2 MCHC-34.4 RDW-12.2 RDWSD-37.3 Plt ___
___ 04:16AM BLOOD CK(CPK)-406*
___ 12:55PM BLOOD CK(CPK)-353*
___ 07:51PM BLOOD cTropnT-0.32* proBNP-65
___ 04:16AM BLOOD CK-MB-17* MB Indx-4.2 cTropnT-0.44*
___ 12:55PM BLOOD CK-MB-15* MB Indx-4.2 cTropnT-0.40*
___ 07:51PM BLOOD Calcium-9.4 Phos-3.2 Mg-2.2 Iron-26*
___ 04:16AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.1 Cholest-150
___ 07:51PM BLOOD calTIBC-277 Ferritn-746* TRF-213
___ 09:11PM BLOOD D-Dimer-581*
___ 04:16AM BLOOD %HbA1c-5.6 eAG-114
___ 04:16AM BLOOD Triglyc-460* HDL-21 CHOL/HD-7.1 
LDLmeas-101
___ 07:51PM BLOOD TSH-0.99
___ 07:51PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE HAV 
Ab-NEGATIVE
___ 07:51PM BLOOD IgM-91
___ 04:16AM BLOOD HIV Ab-Negative
___ 07:51PM BLOOD HCV Ab-NEGATIVE
___ 03:37PM BLOOD Lactate-1.0

IMAGING
=======
___ CXR: FINDINGS:  PA and lateral views of the chest provided. 

There is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact.  No free air below the right 
hemidiaphragm is seen. 
  IMPRESSION:  No acute intrathoracic process. 

___ RUQ US:
IMPRESSION:  Echogenic liver most compatible with fatty 
deposition.  Please note, more advanced forms of liver disease 
cannot be excluded on the basis of this appearance.  Normal 
gallbladder. 

___ TTE:
Conclusions   
 The left atrium and right atrium are normal in cavity size. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). The estimated cardiac 
index is normal (>=2.5L/min/m2). Transmitral and tissue Doppler 
imaging suggests normal diastolic function, and a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

 IMPRESSION: Normal study. Normal biventricular cavity sizes 
with preserved regional and global biventricular systolic 
function. No valvular pathology or pathologic flow identified.
 If the clinical suspicion for myocarditis or pericarditis is 
moderate or high, a cardiac MRI is suggested. 
 CLINICAL IMPLICATIONS:  Based on ___ AHA endocarditis 
prophylaxis recommendations, the echo findings indicate 
prophylaxis is NOT recommended. Clinical decisions regarding the 
need for prophylaxis should be based on clinical and 
echocardiographic data.  

MICROBIOLOGY
============
___ bcx pending

DISCHARBE LABS
==============
___ 07:00AM BLOOD WBC-7.9 RBC-4.81 Hgb-14.3 Hct-42.6 MCV-89 
MCH-29.7 MCHC-33.6 RDW-12.7 RDWSD-41.2 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-107* UreaN-10 Creat-1.2 Na-138 
K-4.1 Cl-105 HCO3-24 AnGap-13
___ 07:00AM BLOOD ALT-23 AST-29 AlkPhos-48 TotBili-0.4
___ 07:00AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.___RIEF HISTORY
=============
Mr. ___ is a ___ man with h/o hypertriglyceridemia and a 
heart murmur as a child who presents with chest tightness and 
found to have troponin elevation. There were no ischemic changes 
to his EKG, and his TTE was normal. His troponins and CKMB 
peaked on ___ and the patient was discharged to home with 
scheduled follow up with a cardiac MRI.

ACTIVE ISSUES
=============
# Chest pain with troponin elevation: Most concerning for ACS, 
though EKG without acute ischemic changes, TTE without regional 
wall motion abnormality, chest pain atypical nature, and pt's 
young age makes this very unlikely. Viral myocarditis thought to 
be most likely etiology. Demand ischemia also possible, though 
without a very clear inciting event. Initially felt to have 
global hypokinesia on a bedside TTE, but a formal TTE on ___ 
with normal EF and no regional wall motion abnormalities. Also 
considered cardiomyopathies from other etiologies, such as 
familial (no known h/o CM), infectious (pt with recent viral vs 
bacterial gastroenteritis), toxic (pt denies heavy EtOH use or 
other drugs), infiltrative (amyloid, sarcoid, hemochromatosis, 
tumor), autoimmune (polymyositis, SLE, scleroderma, RA, PAN, 
eosinophilic, giant cell), Takotsubo (no apical ballooning), 
ARVC. Pt not tachycardic. Also can consider metabolic causes 
(hypothyroid, acromegaly, pheo, OSA, thiamine, selenium or 
carnitine defic). TSH wnl. HAV, HBVsAg, HCV negative. HBV 
non-immune. IgM wnl. HIV neg. A1c 5.6%. Troponin peaked at 0.44, 
CK-MB also peaked at 17 on ___ ___. Transferrin sat ~9%, low 
concern for hemochromatosis. Elevated ___ (460) on a non-fasting 
panel, and unchanged from prior known levels. Cholesterol panel 
otherwise wnl. Pt was kept on a heparin gtt until formal TTE 
most likely ruled out ischemic etiology. Pt was on ASA 81, 
metoprolol, and atorvastatin through his stay and was 
discontinued at discharge. Pt needs to receive cardiac MRI as 
outpatient

# Elevated D-dimer: Most likely representation of acute phase 
reactant in setting of viral illness. Patient without any 
resting tachycardia, O2 requirement, or dyspnea at any point 
during admission to suggest PE. PERC score 0. 

# Fatty steatosis with RUQ TTP: On admission, LFTs normal, 
slightly increased lipase. Fatty steatosis seen on RUQ 
ultrasound in ED. NAFLD diagnosis requires imaging, exclusion of 
significant EtOH consumption, and exclusion of other causes of 
hepatic steatosis. HAV, HBVsAg, HCV negative. Low concern for 
hemochromatosis with Transferrin sat 9%. High ___ at 460 (but 
non-fasting and unchanged from prior outpatient levels). 
Cholesterol levels otherwise wnl. Pt with mild TTP on RUQ at 
time of discharge, but improved from admission, and would 
recommend outpatient follow up. Would also recommend decreasing 
alcohol use and increasing exercise.

 # Diarrhea: Pt had it from ___, when was in ___.  He had 
been taking Imodium prior to admission. Pt had formed stool on 
___.

CHRONIC ISSUES
==============
 # HLD: Pt reports being told to take fish oil for high 
cholesterol last year, but on recheck this year despite not 
taking fish oil, his numbers improved.  High ___ at 460 (but 
non-fasting and unchanged from prior outpatient levels), and 
mildly elevated lipase. Cholesterol levels otherwise wnl. We 
would recommend further evaluation and management as an 
outpatient. We also recommended increasing exercise.

TRANSITIONAL ISSUES
===================
-No new medications on discharge
-F/u Cardiac MRI on ___ at 11:30am
-Pt should decrease alcohol intake
-Encouragement to increase exercise, possibly start fish oil 
(was recommended previously but pt did not take) to improve 
dyslipidemia

# CODE: Full Code (confirmed) 
# CONTACT: ___ (father) ___ (c), secondary 
Nevine ___ (mother) ___ (c)

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest discomfort with troponin elevation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because your chest discomfort 
was associated with an elevated blood enzyme that was concerning 
for a heart abnormality.

While you were here, you received an ultrasound of your heart 
that showed a normal heart function. Your EKGs (electrical 
activity of your heart) did not show evidence of a heart attack. 
Your blood enzymes peaked and started downtrending on ___. 
While you were here, you were initially on continuous heparin 
while ruling out an ischemic cause, and also received metoprolol 
(for possible low ejection fraction), aspirin, and atorvastatin. 
You were NOT discharged with these medications because we did 
not feel they were necessary. 

Moving forward, please follow up with your primary care doctor. 
We have made an appointment for you with a new primary care 
doctor in the local area so that you can visit him/ her while 
you are studying in ___. We also recommend following up with 
a cardiologist. 

We wish you the best,
Your ___ care team
 
Followup Instructions:
___